US06498254B1
Preparation of 2-[[(3-nitro-4-chlorophenyl)methyl]sulfonyl]pyridine-N-oxide
To a mixture of 14.0 g (0.0426 mole) of 2-[[(4-chloro-3-nitrophenyl) methyl]sulfinyl]-pyridine-N-oxide in 35 ml of acetic acid was added 10.1 g of peracetic acid (40% in acetic acid) dropwise over one hour. The temperature of the reaction mixture rose to 27° C. before a water bath was placed on the flask to hold the temperature at 25° C. After addition, the mixture was heated to 70° C. for five hours. The mixture was cooled, and 20 ml additional acetic acid and solid sodium bisulfate and water were added to destroy the excess peracetic acid. The aqueous mixture was neutralized with potassium carbonate and chilled in an ice bath to precipitate an almost white solid. This solid was filtered off, washed with water, dried under vacuum overnight, and had a melting point of 162-164° C. Infrared and NMR spectra were both consistent with the proposed structure. The product was recrystallized from ethanol to give needle-like white crystals having a melting point of 168-170° C. C,H,N calculated for C12H9ClN2O5S: C=43.85%; H=2.76%; N=8.52%. Found: C=43.27% H=2.65%; N=8.21%.

reactant | 2-[[(4-chloro-3-nitrophenyl) methyl]sulfinyl]-pyridine-N-oxide | 0.0426 mole, 14.0 g | ClC1=C(C=C(C=C1)CS(=O)C1=[N+](C=CC=C1)[O-])[N+](=O)[O-] | C12H9ClN2O4S
reactant | peracetic acid | 10.1 g | C(C)(=O)OO | C2H4O3
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
reactant | water | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-[[(3-nitro-4-chlorophenyl)methyl]sulfonyl]pyridine-N-oxide | [N+](=O)([O-])C=1C=C(C=CC1Cl)CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C12H9ClN2O5S
